US06774258B2
By following the procedure of Synthesis Example 2 except that 5-methyl-1,5-hexanediol was used instead of 4-methyl-1,4-pentanediol and methyl 4-(5-norbornen-2-yl)butyrate used instead of methyl 5-norbornene-2-carboxylate, there was obtained 5-hydroxy-5-methylhexyl 4-(5-norbornen-2-yl)butyrate. Yield 92%.

reactant | 5-methyl-1,5-hexanediol | CC(CCCCO)(C)O | C7H16O2
reactant | methyl 4-(5-norbornen-2-yl)butyrate | C12C(CC(C=C1)C2)CCCC(=O)OC | C12H18O2
product | 5-hydroxy-5-methylhexyl 4-(5-norbornen-2-yl)butyrate | Yield 92% | C12C(CC(C=C1)C2)CCCC(=O)OCCCCC(C)(C)O | C18H30O3
